US05643959
To a solution of o-fluoroanisole, 101 g. (0.80 mole) in 500 ml. dry methylene chloride is added dropwise over 30 minutes a solution of titanium tetrachloride, 182 g. (0.96 mole, 1.2 equiv.) and α,α-dichloromethylmethyl ether, 110 g. (0.96 mole) in an equal volume of methylene chloride. The temperature is maintained at 10°-20° C. with an ice-bath. The mixture is stirred at room temperature for 1 hour longer and then poured over crushed ice-water with stirring. Ether (1 l.) is added, and the mixture stirred under nitrogen until solution occurs. The organic layer is extracted with water (3×), sodium bicarbonate solution (3×) and dried (MgSO4). The solvent is evaporated off at 30° to give crude product as an oil. The oil is vacuum distilled through a jacketed Vigreux column when it gives 3-fluoro-4-methoxybenzaldehyde, B.P. 120°-121° C., at 10 mm. Hg; Rf 0.6 on a silica-gel G plate with methylene chloride.

reactant | o-fluoroanisole | FC1=C(C=CC=C1)OC | C7H7FO
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | Ether | 1 l | CCOCC | C4H10O
catalyst | titanium tetrachloride | [Ti](Cl)(Cl)(Cl)Cl
product | 3-fluoro-4-methoxybenzaldehyde | FC=1C=C(C=O)C=CC1OC | C8H7FO2
